US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-pentadecanamide
The title compound was prepared from 2-tetradecanone (5.0 g, 0.023 mol), 2,6-diisopropylphenylisocyanate (4.78 g, 0.023 mol), and lithium diisopropylamide (0.023 mol) using the procedure described in Example 1. Purification by flash chromatography (silica gel, 15% EtOAc/hexane) yielded 4.25 g (0.010 mol, 44%) of the desired product.

reactant | 2-tetradecanone | 0.023 mol, 5.0 g | CC(CCCCCCCCCCCC)=O | C14H28O
reactant | 2,6-diisopropylphenylisocyanate | 0.023 mol, 4.78 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.023 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-pentadecanamide | 0.010 mol, 4.25 g, 44% | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCCCCC)=O)=O | C27H45NO2
